US06743794B2
cis-1-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-3-(3-phenylureido)cyclohexane
To the suspension of cis-1-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-3-amino-cyclohexane (0.0446 g, 0.121 mmol) in 1 mL anhydrous THF at RT was added 2N NaOH (0.60 mL, 0.121 mmol). After 5 min. the phenylisocyanate (0.013 mL,0.121 mmol). After 20 min. the reaction was diluted with EtOAc, washed with water and concentrated to near dryness. After sonication and filtration a white solid (0.0412, 75%) was obtained.

reactant | cis-1-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-3-amino-cyclohexane | 0.121 mmol, 0.0446 g | ClC=1C=2C=3C(C(N(C2C=CC1)[C@@H]1C[C@@H](CCC1)N)=O)=C(ON3)C | C17H18ClN3O2
reactant | NaOH | 0.121 mmol, 2N, 0.60 mL | [OH-].[Na+]
reactant | phenylisocyanate | 0.121 mmol, 0.013 mL | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | cis-1-(9-chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-3-(3-phenylureido)cyclohexane | ClC=1C=2C=3C(C(N(C2C=CC1)[C@@H]1C[C@@H](CCC1)NC(=O)NC1=CC=CC=C1)=O)=C(ON3)C | C24H23ClN4O3
